US08541596B2
N,N-Bis(2-fluorobenzyl)-1H-benzo[d]imidazol-5-amine
The compound was synthesized starting from benzimidazol-5-amine (133 mg; 1 mmol; 1 eq.), 2-fluorobenzylbromide (416 mg; 0.265 ml; 2.2 mmol; 2.2 eq.) and K2CO3 (304 mg; 2.2 mmol; 2.2 eq.) according to method 5; Yield: 0.063 g (18.1%); MS m/z: 350.2 [M+H]+; 1H-NMR (500 MHz, DMSO d6): δ 4.73 (s, 4H); 6.71-6.72 (m, 2H); 7.08-7.11 (m, 2H); 7.17-7.19 (m, 2H); 7.20-7.28 (m, 4H); 7.32 (d, 1H, 3J=9.4 Hz); 7.92 (s, 1H); 11.94 (br s, 1H); HPLC (METHOD [A]): rt 15.61 min (100%)

reactant | benzimidazol-5-amine | 1 mmol, 133 mg, 1 eq. | N1=CNC2=C1C=CC(=C2)N | C7H7N3
reactant | 2-fluorobenzylbromide | 2.2 mmol, 0.265 ml, 416 mg, 2.2 eq. | FC1=C(CBr)C=CC=C1 | C7H6BrF
reactant | K2CO3 | 2.2 mmol, 304 mg, 2.2 eq. | C(=O)([O-])[O-].[K+].[K+]
product | N,N-Bis(2-fluorobenzyl)-1H-benzo[d]imidazol-5-amine | FC1=C(CN(C2=CC3=C(NC=N3)C=C2)CC2=C(C=CC=C2)F)C=CC=C1 | C21H17F2N3
